US06794395B1
3-(Z)-(1-{4-[2-(4-dimethylcarbamoyl-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone
0.2 g of 3-(Z)-(1-{4-[2-(4-carboxy-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone are dissolved in 5.0 ml of dimethylformamide and 0.2 g of TBTU, 0.1 g of HOBT and 0.5 ml of triethylamine are added. Finally 0.2 g of dimethylamine hydrochloride are added and the mixture is stirred for 2 hours at ambient temperature. The solvent is eliminated and the residue is stirred with water, suction filtered and washed with isopropanol and ether. The residue is dried in vacuo at 100° C.

reactant | 3-(Z)-(1-{4-[2-(4-carboxy-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | 0.2 g | C(=O)(O)C1CCN(CC1)CCC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C31H33N3O5
reactant | HOBT | 0.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 0.2 g | Cl.CNC
solvent | dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
solvent | TBTU | 0.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | water | O | H2O
product | 3-(Z)-(1-{4-[2-(4-dimethylcarbamoyl-piperidin-1-yl)-ethyl]-anilino}-1-phenyl-methylidene)-5,6-dimethoxy-2-indolinone | CN(C(=O)C1CCN(CC1)CCC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1)C | C33H38N4O4
